US04223137
1 g of 5-(1-hydroxy-2-tert-butylaminopropyl)-8-hydroxycarbostyril hydrochloride was suspended in 15 ml of methanol, and sodium methylate prepared from 155 mg of sodium metal and 3.3 ml of absolute methanol was added to the suspension. The mixture was then concentrated to dryness, and the resulting residue was dissolved in 10 ml of dimethylformamide. 593 mg of piperonylyl chloride dissolved in 5 ml of dimethylformamide was then added dropwise to the mixture while cooling with ice-water. The mixture was then stirred for 1 hour, and water was added to the mixture followed by extraction with chloroform. Chloroform was removed by distillation, and diethyl ether was added to the residue to crystallize the product. The crystals thus obtained were separated by filtration, washed with diethyl ether and recrystallized from a mixture of chloroform and diethyl ether to obtain 520 mg of 8-(3,4-methylenedioxyphenylcarbonyloxy)-5-(1-hydroxy-2-tert-butylaminopropyl)carbostyril having a melting point of 156°-157° C.

reactant | 5-(1-hydroxy-2-tert-butylaminopropyl)-8-hydroxycarbostyril hydrochloride | 1 g | Cl.OC(C(C)NC(C)(C)C)C1=C2C=CC(NC2=C(C=C1)O)=O
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 155 mg | [Na] | Na
solvent | methanol | 15 ml | CO | CH4O
solvent | methanol | 3.3 ml | CO | CH4O
product | 8-(3,4-methylenedioxyphenylcarbonyloxy)-5-(1-hydroxy-2-tert-butylaminopropyl)carbostyril | 520 mg | C1OC=2C=C(C=CC2O1)C(=O)OC=1C=CC(=C2C=CC(NC12)=O)C(C(C)NC(C)(C)C)O | C24H26N2O6
